US08895566B2
A solution of tert-butyl 2-(4-chlorophenyl)-2-(6-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)benzo[d]isothiazol-3-yl)ethylcarbamate (41 mg, 0.076 mmol) in DCM was treated with 4N HCl in dioxane (0.5 mL). The reaction was stirred at room temperature overnight. The reaction was concentrated and triturated with ether (twice) to yield (5R,7R)-4-(3-(2-amino-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride (32 mg, 77%). LCMS (APCI+) m/z 437, 439 [M+H]+; Rt=2.48 min.

reactant | tert-butyl 2-(4-chlorophenyl)-2-(6-((5R,7R)-7-hydroxy-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)benzo[d]isothiazol-3-yl)ethylcarbamate | 0.076 mmol, 41 mg | ClC1=CC=C(C=C1)C(CNC(OC(C)(C)C)=O)C1=NSC2=C1C=CC(=C2)C=2C1=C(N=CN2)[C@@H](C[C@H]1C)O | C28H29ClN4O3S
reactant | HCl | 4N | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (5R,7R)-4-(3-(2-amino-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride | 32 mg, 77% | Cl.Cl.Cl.NCC(C1=CC=C(C=C1)Cl)C1=NSC2=C1C=CC(=C2)C=2C1=C(N=CN2)[C@@H](C[C@H]1C)O | InChI=1S/C23H21ClN4OS.3ClH/c1-12-8-18(29)23-20(12)21(26-11-27-23)14-4-7-16-19(9-14)30-28-22(16)17(10-25)13-2-5-15(24)6-3-13;;;/h2-7,9,11-12,17-18,29H,8,10,25H2,1H3;3*1H/t12-,17?,18-;;;/m1.../s1
